US06734179B2
0.45 g (0.094 mMol) 4-{4-Methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester were dissolved in 2 ml 2.5 M HCl/MeOH and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo and taken up in 5 ml isopropanol. The suspension formed was filtered and the material on the filter was washed with diethyl ether and dried in vacuo. One obtained 26 mg (67%) morpholine-4-carboxylic acid (4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-amide hydrochloride (1:1) as a white solid. F.p.: 314-315° C.

reactant | 4-{4-Methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester | 0.094 mMol, 0.45 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCOCC2)OC | C23H32N4O5S
reactant | HCl MeOH | 2.5 M, 2 ml | Cl.CO
product | morpholine-4-carboxylic acid (4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-amide hydrochloride | 26 mg, 67% | Cl.COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCOCC2)C2CCNCC2 | InChI=1S/C18H24N4O3S.ClH/c1-24-14-3-2-13(12-4-6-19-7-5-12)16-15(14)20-17(26-16)21-18(23)22-8-10-25-11-9-22;/h2-3,12,19H,4-11H2,1H3,(H,20,21,23);1H
